US20010053785A1
(2R)-2-[4′-(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4′-(2-benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-ol, and (S)-(−)-3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 29, and was obtained as an off-white solid, mp 142-144° C.; MS m/e 517 (M−H)+;

reactant | 4′-(2-benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)C=1SC(=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C)C | C25H22OS
reactant | (S)-(−)-3-phenyllactic acid methyl ester | COC([C@@H](O)CC1=CC=CC=C1)=O | C10H12O3
product | (2R)-2-[4′-(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C=1SC(=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O[C@@H](C(=O)O)CC1=CC=CC=C1)C)C | C34H30O3S
